US05189054
Scheme I, step c: 3-[(Phenacyl)amino]-2-carbethoxy-6-fluoroindole
Suspend 3-Amino-2-carbethoxy-6-fluoroindole (1.1 eq) in methylene chloride and add triethylamine (1.1 eq). Add benzoyl chloride (1.1 eq) and stir for 30 minutes at room temperature to produce a precipitate. Dilute the reaction with ethyl acetate, rinse with water, dry over magnesium sulfate, filter and concentrate in vacuo to yield the title compound (1.26 g).

reactant | 3-Amino-2-carbethoxy-6-fluoroindole | 1.1 eq | NC1=C(NC2=CC(=CC=C12)F)C(=O)OCC | C11H11FN2O2
reactant | triethylamine | 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 1.1 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[(Phenacyl)amino]-2-carbethoxy-6-fluoroindole | 1.26 g | C(C(=O)C1=CC=CC=C1)NC1=C(NC2=CC(=CC=C12)F)C(=O)OCC | C19H17FN2O3
